US05039676
a) Ethyl 4-(1-methylethyl)-1-piperazinylcarboxylate
A solution of ethyl 1-piperazinylcarboxylate (25.0 mL, 0.171 mole) and acetone (37.7 mL, 0.513 mole) in methanol (MeOH) (500 mL) was cooled to 0°-5° C. Sodium cyanoborohydride (10.7 g., 0.171 mole) was added in two portions. The so-formed mixture was stirred at 0°-5° C. for 8 hours while maintaining the pH at 4-6 by dropwise addition of 6N HCl. The temperature of the reaction mixture was allowed to slowly rise to RT overnight. The reaction mixture was evaporated in vacuo to provide a residue which was dissolved in H2CCl2 (500 mL) and 5% NaHCO3 (500 mL). The H2CCl2 layer was separated, washed with brine (500 mL), dried over anhydrous MgSO4, and evaporated in vacuo. The so-formed residue was chromatographed on silica gel, eluting with 1% MeOH/H2CCl2 (v/v) containing 1 mL of conc. NH4OH per liter of solution to give 18.9 g of the title compound of Example 67(a) as a gum, M/e, M+ 201.

reactant | ethyl 1-piperazinylcarboxylate | 0.171 mole, 25.0 mL | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | acetone | 0.513 mole, 37.7 mL | CC(=O)C | C3H6O
reactant | Sodium cyanoborohydride | 0.171 mole, 10.7 g | C(#N)[BH3-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
solvent | H2CCl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
product | Ethyl 4-(1-methylethyl)-1-piperazinylcarboxylate | 18.9 g | CC(C)N1CCN(CC1)C(=O)OCC | C10H20N2O2
